US06191124B1
A solution of 7-fluoroimidazo[2,1-b]benzothiazole-3-carboxylic acid ethyl ester, (synthesized from 2-amino-methylbenzothiazole according to a modification of the procedures described by Fajeli et al., Heterocycles, 1986, 24, 379) (1.93 g) in dry THF (50 mL) at 0° was treated with LiAlH4 (0.36 g) and reacted at 25° for one hour. The suspension was quenched by serial addition of water and 15% sodium hydroxide. The suspension was filtered and the filtrate was evaporated to yield crude 7-Fluoro-imidazo[2,1-b]benzothiazole-3-methanol (Formula L-2) (1.59 g). Crystallization of crude 7-Fluoro-imidazo[2,1-b]benzothiazole-3-methanol (Formula L-2) from acetonitrile gave pure 7-Fluoro-imidazo[2,1-b]benzothiazole-3-methanol (Formula L-2) (1.3 g), m.p. 240-241°.

reactant | 7-fluoroimidazo[2,1-b]benzothiazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=CN=C2SC3=C(N21)C=CC(=C3)F | C12H9FN2O2S
reactant | 2-amino-methylbenzothiazole | NC=1SC2=C(N1)C(=CC=C2)C | C8H8N2S
reactant | LiAlH4 | 0.36 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 7-Fluoro-imidazo[2,1-b]benzothiazole-3-methanol | 1.3 g | FC1=CC2=C(N3C(S2)=NC=C3CO)C=C1 | C10H7FN2OS
